### PR TITLE
Erdős Problem 141

### LINKED ISSUE #378: Erdős Problem 141
### What is the conjecture
    
https://www.erdosproblems.com/141

  Let $k\geq 3$. Are there $k$ consecutive primes in arithmetic progression?

Status: open

### PR DESCRIPTION
**Pull request by mo271**
fixes #378

### CODE REVIEW

File: FormalConjectures/ErdosProblems/141.lean [hunk 1]
```diff
@@ -0,0 +1,105 @@
...
+The predicate that a set `s` is both an arithmetic progression of length `l` and a progression
+of `l` consecutive primes.
+-/
+def Set.IsAPAndPrimeProgressionOfLength (s : Set ℕ) (l : ℕ) :=
+   s.IsAPOfLength l ∧ s.IsPrimeProgressionOfLength l
+
+/--
+There are 3 consecutive primes in arithmetic progression.
+-/
+@[category test]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/141.lean]:
```suggestion
@[category test, AMS 5 11]
```

File: FormalConjectures/ErdosProblems/141.lean [hunk 2]
```diff
@@ -0,0 +1,105 @@
...
+-/
+def Set.IsPrimeProgressionOfLength (s : Set ℕ) (l : ℕ∞) : Prop :=
+    ∃ a, ENat.card s = l ∧ s = {(a + n).nth Nat.Prime | (n : ℕ) (_ : n < l)}
+
+open Nat
+
+/--
+The first three odd primes are an example of three consecutive primes.
+-/
+@[category test]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/141.lean]:
```suggestion
@[category test, AMS 5 11]
```

File: FormalConjectures/ErdosProblems/141.lean [hunk 3]
```diff
@@ -0,0 +1,105 @@
...
+/--
+Let $k≥3$. Are there $k$ consecutive primes in arithmetic progression?
+-/
+@[category research open, AMS 5 11]
+theorem erdos_141 : (∀ k ≥ 3, ∃ (s : Set ℕ), s.IsAPAndPrimeProgressionOfLength k)
+    ↔ answer(sorry) := by
+  sorry
+
+/--
+The exisitence of such progressions has been verified for $k≤10$.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/141.lean]:
```suggestion
The existence of such progressions has been verified for $k≤10$.
```

File: FormalConjectures/ErdosProblems/141.lean [hunk 4]
```diff
@@ -0,0 +1,105 @@
...
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_141.variant.first_cases :
+    (∀ k ≥ 3, k ≤ 10 → ∃ (s : Set ℕ), s.IsAPAndPrimeProgressionOfLength k) := by
+  sorry
+
+/--
+The first unsolved case is $k=11$.
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/141.lean]: Do we want to have some self contained docstrings for the problems?

**Review by Paul-Lez — COMMENTED** [review]
Nice! A Few minor comments!

File: FormalConjectures/ErdosProblems/141.lean [hunk 5]
```diff
@@ -0,0 +1,105 @@
...
+/--
+The existence of such progressions has been verified for $k≤10$.
+-/
+@[category research solved, AMS 5 11]
+theorem erdos_141.variant.first_cases :
+    (∀ k ≥ 3, k ≤ 10 → ∃ (s : Set ℕ), s.IsAPAndPrimeProgressionOfLength k) := by
+  sorry
+
+/--
+The first unsolved case is $k=11$.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/141.lean]:
```suggestion
Are there $11$ consecutive primes in arithmetic progression?
```

File: FormalConjectures/ErdosProblems/141.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/141.lean]: Probably a good idea: made it self-contained...

File: FormalConjectures/ErdosProblems/141.lean [hunk 6]
```diff
@@ -0,0 +1,105 @@
...
+def consecutivePrimeArithmeticProgressions (k : ℕ) : Set (Set ℕ) :=
+  {s | s.IsAPAndPrimeProgressionOfLength k}
+
+/--
+It is open, even for $k=3$, whether there are infinitely many such progressions.
+-/
+@[category research open, AMS 5 11]
+theorem erdos_141.variant.infinite_three :
+    (consecutivePrimeArithmeticProgressions 3).Infinite ↔ answer(sorry) :=
+  sorry
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/141.lean:105]:
```suggestion
/--
It is open, even for $k=3$, whether there are infinitely many such progressions.
-/
@[category research open, AMS 5 11]
theorem erdos_141.variant.infinite_three :
    (consecutivePrimeArithmeticProgressions 3).Infinite ↔ answer(sorry) :=
  sorry

/--
Fix a $k \geq 3$. Is it true that there are infinitely many arithmetic prime progressions of length $k$?
-/
@[category research open, AMS 5 11]
theorem erdos_141.variant.infinite_general_case  (k : ℕ) (hk : k ≥ 3) :
    (consecutivePrimeArithmeticProgressions k).Infinite ↔ answer(sorry) :=
  sorry
  
```

**Review by Paul-Lez — APPROVED** [review]
LGTM!
